### PR TITLE
Cohomology Ring of the Klein Bottle

### PR DESCRIPTION
**Pull request by thomas-lamiaux**
Starting computing the cohomology ring of K²

### CODE REVIEW

**Comment by thomas-lamiaux** [comment]
@aljungstrom won't compute after 10 minutes on my ok computer 
https://github.com/agda/cubical/pull/882/files#diff-b89e4f1599c7dba39bcde49cd6c8c0df1239f68261f2abf543ca8b274b049a45R461

**Comment by thomas-lamiaux** [comment]
@aljungstrom @mortberg This example is done up to the proof that `(a b : ℤ) → (ϕ₁ a) ⌣  (ϕ₁ b) ≡ 0ₕ 2`
Proof that seems too slow to compute on my computer

**Comment by thomas-lamiaux** [comment]
I have added : 
- it suffices to prove `(phi 1) cup (phi 1) = 0` to prove it for any `a b`
- I have added that if the H^n is odd, and H^2n is without Z, then `(phi n) cup (phi n) = 0`
I wanted to do that to prove the cup product is trivial but it ony work if there is not 2-torsion group, but Z/2... is an entire 2-torsion group

**Comment by thomas-lamiaux** [comment]
@mortberg With Axel lemme, it is now done

File: Cubical/ZCohomology/CohomologyRings/KleinBottle.agda [hunk 1]
```diff
@@ -0,0 +1,572 @@
...
+    -- ★ : prove that ϕ₁(1) ⌣ ϕ₁(1) ≡ 0
+
+    open pres⌣
+
+
+    ϕ₀-gen : (n : ℕ) → (f : coHom n KleinBottle) → ϕ₀ (pos 1) ⌣ f ≡ f
+    ϕ₀-gen n = ST.elim (λ _ → isProp→isSet (GroupStr.is-set (snd (coHomGr n KleinBottle)) _ _))
+                       (λ f → cong ∣_∣₂ (funExt (λ x → rUnitₖ n (f x))))
+
+    -- note that the proof might be simpliale by adding a second partition on T
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/KleinBottle.agda:280]:
```suggestion
    -- note that the proof might be simplified by adding a second partition on T
```

File: Cubical/ZCohomology/CohomologyRings/KleinBottle.agda [hunk 2]
```diff
@@ -0,0 +1,572 @@
...
+    -- side, though it might complicated a bunch of things
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/KleinBottle.agda:281]: I'm confused by this comment... Does extra partitioning simplify things or not?

File: Cubical/ZCohomology/CohomologyRings/RP2.agda [hunk 3]
```diff
@@ -0,0 +1,506 @@
...
+  ϕ₀-gen : (n : ℕ) → (f : coHom n RP²) → ϕ₀ (pos 1) ⌣ f ≡ f
+  ϕ₀-gen n f = cong (λ X → X ⌣ f) ϕ₀-pres1 ∙ rUnit⌣ n f
+
+  open pres⌣
+
+  -- Nice packaging of the proof
+  pres·-base-case-int : (n : ℕ) → (a : ℤ) → (m : ℕ) → (b : ℤ) →
+                ℤ[x]→H*-RP² (base (n ∷ []) a ·Pℤ base (m ∷ []) b)
+              ≡ ℤ[x]→H*-RP² (base (n ∷ []) a) cup ℤ[x]→H*-RP² (base (m ∷ []) b)
+  pres·-base-case-int zero          a zero          b = cong (base 0) (ϕₙ⌣ϕₘ ϕ₀ ϕ₀str ϕ₀ ϕ₀str ϕ₀ ϕ₀str (ϕ₀-gen _ _) a b)
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/RP2.agda:268]: long lines around here

File: Cubical/ZCohomology/CohomologyRings/RP2.agda [hunk 4]
```diff
@@ -0,0 +1,506 @@
...
+  ℤ[X]/<2X,X²>→H*R-RP² =
+    Quotient-FGideal-CommRing-Ring.inducedHom ℤ[X] (H*R RP²) ℤ[X]→H*-RP² <2X,X²> ℤ[x]→H*-RP²-cancelX
+
+  ℤ[x]/<2x,x²>→H*-RP² : ℤ[x]/<2x,x²> → H* RP²
+  ℤ[x]/<2x,x²>→H*-RP² = fst ℤ[X]/<2X,X²>→H*R-RP²
+
+  ℤ[x]/<2x,x²>→H*-RP²-pres0 : ℤ[x]/<2x,x²>→H*-RP² 0PℤI ≡ 0H*
+  ℤ[x]/<2x,x²>→H*-RP²-pres0 = refl
+
+  ℤ[x]/<2x,x²>→H*-RP²-pres+ : (x y : ℤ[x]/<2x,x²>) → ℤ[x]/<2x,x²>→H*-RP² ( x +PℤI y) ≡ ℤ[x]/<2x,x²>→H*-RP² x +H* ℤ[x]/<2x,x²>→H*-RP² y
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/RP2.agda:323]: long line

File: Cubical/ZCohomology/CohomologyRings/RP2.agda [hunk 5]
```diff
@@ -0,0 +1,506 @@
...
+  ℤ[x]/<2x,x²>→H*-RP²-pres+ x y = IsRingHom.pres+ (snd ℤ[X]/<2X,X²>→H*R-RP²) x y
+
+
+-----------------------------------------------------------------------------
+-- Converse Sens on ℤ[X] + ℤ[x]/x
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/RP2.agda:328]:
```suggestion
-- Converse direction on ℤ[X] + ℤ[x]/x
```

File: Cubical/ZCohomology/CohomologyRings/RP2.agda [hunk 6]
```diff
@@ -0,0 +1,506 @@
...
+
+  -- Because ϕ⁻¹ are not morphism on there own
+  -- We need to define functions directly from H* to Z[X]/<2X, X³>
+
+  ψ₂⁻¹ : Bool → ℤ
+  ψ₂⁻¹ false = 1
+  ψ₂⁻¹ true = 0
+
+  private
+  -- Those lemma are requiered because ψ₂⁻¹
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/RP2.agda:338]:
```suggestion
  -- These lemma are required because ψ₂⁻¹
```

File: Cubical/ZCohomology/CohomologyRings/RP2.agda [hunk 7]
```diff
@@ -0,0 +1,506 @@
...
+                                            ∙ cong (base (0 ∷ [])) (sym (pres· ϕ₀⁻¹str _ _) ∙ cong ϕ₀⁻¹ (substG+ _ _ _)))
+       base-add-eq k a b (is2 x) = Λ-pres+ (ϕ₂⁻¹ (substG x a)) (ϕ₂⁻¹ (substG x b))
+                                   ∙ cong [_] (cong (λ X → base {AGP = λ _ → snd ℤAG} (1 ∷ []) (ψ₂⁻¹ X))
+                                                    ((sym (pres· ϕ₂⁻¹str _ _) ∙ cong ϕ₂⁻¹ (substG+ _ _ _))))
+       base-add-eq k a b (else x) = +PℤIIdR _
+
+  H*-RP²→ℤ[x]/<2x,x²>-pres0 : H*-RP²→ℤ[x]/<2x,x²> 0H* ≡ 0PℤI
+  H*-RP²→ℤ[x]/<2x,x²>-pres0 = refl
+
+  H*-RP²→ℤ[x]/<2x,x²>-pres+ : (x y : H* RP²) → H*-RP²→ℤ[x]/<2x,x²> (x +H* y) ≡ (H*-RP²→ℤ[x]/<2x,x²> x) +PℤI (H*-RP²→ℤ[x]/<2x,x²> y)
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/RP2.agda:395]: long line

File: Cubical/ZCohomology/CohomologyRings/RP2.agda [hunk 8]
```diff
@@ -0,0 +1,506 @@
...
+                            ∙ +PℤIdR _
+                            ∙ cong (base (1 ∷ [])) (sym (-DistL· _ _)))
+
+
+  e-retr-ψ₂ : (a : ℤ) → ((isEven a ≡ false) ⊎ (isEven a ≡ true)) → Λ (ψ₂ a) ≡ [ base (1 ∷ []) a ]
+  e-retr-ψ₂ a (inl x) = e-retr-ψ₂-false a x
+  e-retr-ψ₂ a (inr x) = e-retr-ψ₂-true a x
+
+
+  e-retr-base : (k :  ℕ) → (a : ℤ) → H*-RP²→ℤ[x]/<2x,x²> (ℤ[x]/<2x,x²>→H*-RP² [ base (k ∷ []) a ]) ≡ [ base (k ∷ []) a ]
```
Comment (mortberg) [inline Cubical/ZCohomology/CohomologyRings/RP2.agda:465]: long line

File: Cubical/ZCohomology/Groups/KleinBottle.agda [hunk 9]
```diff
@@ -467,9 +468,19 @@ Hⁿ⁺³-𝕂²≅0 n = contrGroupIsoUnit (isContrHⁿ-𝕂² n)
...
+-- Because ℤ is discrete it computes nicely
 α↦1 : Iso.fun (fst H¹-𝕂²≅ℤ) α ≡ 1
 α↦1 = refl
 
+1↦α : Iso.inv (fst H¹-𝕂²≅ℤ) 1 ≡ α
+1↦α = cong (Iso.inv (fst H¹-𝕂²≅ℤ)) (sym α↦1)
+      ∙ leftInv (fst H¹-𝕂²≅ℤ) α
+
+
+-- still to long to compute but work for RP2⋁S1
```
Comment (mortberg) [inline Cubical/ZCohomology/Groups/KleinBottle.agda:480]:
```suggestion
-- still too long to compute, but works for RP2⋁S1
```

**Review by mortberg — CHANGES_REQUESTED** [review]
some small comments

File: Cubical/ZCohomology/CohomologyRings/KleinBottle.agda (hunk 2 above)
Comment (thomas-lamiaux) [reply Cubical/ZCohomology/CohomologyRings/KleinBottle.agda:281]: I don't know, that's why there is a comment

**Comment by thomas-lamiaux** [comment]
done
